* source LAB10
X_U1         0 N00418 N00148 N00185 N00631 LM741
V_V3         N00766 0  
+SIN 0 1 1k 0 0 0
C_C1         N04466 N04095  100n   
V_V6         N03596 0  
+SIN 0 1 1k 0 0 0
V_V9         N04043 0  
+SIN 0 2 20 0 0 0
R_R3         0 N03185  1k  
V_V1         0 N00185 10Vdc
V_V8         N04185 0 9Vdc
V_V5         N03381 0 10Vdc
V_V2         N00148 0 10Vdc
V_V4         0 N03297 10Vdc
R_R5         N04043 N04095  10k  
R_R1         N00766 N00418  1k  
R_R4         N03185 N03225  5.6k  
R_R2         N00418 N00631  5.6k  
X_U3         N03983 N04095 N04185 N03943 N04466 LM741
R_R7         0 N03983  10k  
X_U2         N03596 N03185 N03381 N03297 N03225 LM741
V_V7         0 N03943 9Vdc
R_R6         N04466 N04095  10k  
