* source LAB10
X_U1         0 N00418 N00148 N00185 N00631 LM741
X_U4         N06058 N05862 N05896 N05954 N05790 LM741
R_R13         0 N06533  6.8K  
V_V3         N00766 0  
+SIN 0 1 1k 0 0 0
C_C1         N04466 N04095  100n   
V_V6         N03596 0  
+SIN 0 1 1k 0 0 0
V_V18         N07724 0  
+PULSE -2 2 0 1n 1n 5m 10m
V_V9         N04043 0  
+SIN 0 2 20 0 0 0
V_V11         N05896 0 9Vdc
C_C4         N07630 N07644  100n   
R_R3         0 N03185  1k  
R_R8         N06052 N05862  10k  
V_V1         0 N00185 10Vdc
V_V19         0 N07894 9Vdc
X_U5         N06533 N06665 N06829 N06597 N06493 LM741
V_V8         N04185 0 9Vdc
V_V5         N03381 0 10Vdc
V_V16         N06661 0  
+PULSE -2 2 0 1n 1n 5m 10m
V_V12         0 N05954 9Vdc
V_V2         N00148 0 10Vdc
V_V14         N06829 0 9Vdc
C_C3         N06493 N06665  100n   
V_V4         0 N03297 10Vdc
C_C2         N05790 N05862  100n   
R_R5         N04043 N04095  10k  
X_U6         N07662 N07644 N07932 N07894 N07630 LM741
R_R1         N00766 N00418  1k  
R_R11         N06661 N06665  6.8K  
V_V17         N07932 0 9Vdc
R_R4         N03185 N03225  5.6k  
R_R2         N00418 N00631  5.6k  
X_U3         N03983 N04095 N04185 N03943 N04466 LM741
R_R15         N07630 N07644  150k  
V_V10         N06052 0 DC 0Vdc AC 1Vac 
R_R7         0 N03983  10k  
R_R12         N06493 N06665  6.8K  
R_R10         0 N06058  10k  
R_R16         0 N07662  150k  
X_U2         N03596 N03185 N03381 N03297 N03225 LM741
R_R14         N07724 N07644  150k  
V_V7         0 N03943 9Vdc
R_R9         N05790 N05862  10k  
R_R6         N04466 N04095  10k  
V_V15         0 N06597 9Vdc
